US08258140B2
DIPEA (2.417 mL, 13.88 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (obtained as described in Monatsh. Chem. 1972, 103, 1591) (2.059 g, 9.25 mmol) and tert-butyl 4-[3-[4-(piperidin-4-yl)phenoxy]propyl]piperazine-1-carboxylate (3.92 g, 9.71 mmol) in DMF (30 mL). The resulting solution was stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature and evaporated to dryness. The resulting solid was triturated with water, then collected by filtration, washed with ether and dried to afford tert-butyl 4-[3-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate (4.67 g, 86%) as a solid.

reactant | DIPEA | 13.88 mmol, 2.417 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 9.25 mmol, 2.059 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | tert-butyl 4-[3-[4-(piperidin-4-yl)phenoxy]propyl]piperazine-1-carboxylate | 9.71 mmol, 3.92 g | N1CCC(CC1)C1=CC=C(OCCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H37N3O3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[3-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]propyl]piperazine-1-carboxylate | 4.67 g, 86% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCCCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C29H38F3N7O3
